US08664258B2
4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol (2 g, 10.6 mmol) was dissolved in acetone (100 mL). Tert-butyl 2-bromoethylcarbamate (4.74 g, 21.2 mmol) and potassium carbonate (2.92 g, 21.2 mmol) were then added to the solution. The reaction was refluxed for 15 hours at 60° C. After the reaction was completed, the reaction mixture was filtered, concentrated, and dissolved in CH2Cl2. The unreacted 4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol was removed from the product through extraction with 1N NaOH. The product was purified by column chromatography (40% EtOAc/60% Hexanes) to yield tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate (1.56 g, 4.70 mmol, 44.4%) as a white solid. LCMS m/z (%)=333 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 1.42 (s, 9 H), 3.33 (q, J=5.31 Hz, 2 H), 3.55 (s, 2 H), 3.74 (s, 3 H), 3.90 (t, J=5.05 Hz, 2 H), 4.63 (br. s., 1 H), 6.22 (d, J=1.77 Hz, 1 H), 6.61 (d, J=3.03 Hz, 1 H), 6.73 (dd, J=8.84, 2.78 Hz, 1 H), 6.84 (d, J=8.84 Hz, 1 H), 7.51 (d, J=1.77 Hz, 1 H).

reactant | 4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol | 10.6 mmol, 2 g | NC1=CC(=C(C=C1)O)C1=CC=NN1C | C10H11N3O
reactant | Tert-butyl 2-bromoethylcarbamate | 21.2 mmol, 4.74 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | potassium carbonate | 21.2 mmol, 2.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | 4.70 mmol, 1.56 g, 44.4% | NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C17H24N4O3
